US06992094B1
4-[3-(7-Carboxyheptyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoic acid
In a manner similar to that of Example 2, by reaction of 410 mg (0.7 mmol) of ethyl 4-[3-(7-methoxycarbonylheptyloxy)-5,5,8,8-tetramethyl5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate with 280 mg (7 mmol) of sodium hydroxide in a THF/ethanol mixture (5 ml/5 ml), 326 mg (85%) of a white powder are obtained. m.p.: 183° C.

reactant | ethyl 4-[3-(7-methoxycarbonylheptyloxy)-5,5,8,8-tetramethyl5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate | 0.7 mmol, 410 mg | COC(=O)CCCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C32H44O5Se
reactant | sodium hydroxide | 7 mmol, 280 mg | [OH-].[Na+]
solvent | THF ethanol | 5 ml | C1CCOC1.C(C)O
product | 4-[3-(7-Carboxyheptyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoic acid | C(=O)(O)CCCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)O)C=C1 | C29H38O5Se
